US08629102B2
<Step 1> Synthesis of 2-(((S)-4-bromo-2,3-dihydro-1H-inden-1-yl)oxy)tetrahydro-2H-pyran
3,4-dihydro-2H-pyran (10.6 mL) was dissolved in methylene chloride (16.2 mL), and to the resultant solution, a 4M hydrogen chloride solution in 1,4-dioxane (31.1 μL) was added, and to the resultant reaction mixture, (1S)-4-bromo-2,3-dihydro-1H-inden-1-ol (10.0 g) that is commercially available or can be obtained by a publicly known method was added, followed by stirring the resultant reaction mixture at room temperature for 3 hours. To the reaction mixture, a saturated sodium hydrogen carbonate aqueous solution (60 mL) was added, followed by extracting the resultant reaction mixture with methylene chloride (60 mL), and the organic phase was washed with a saturated saline (60 mL), followed by drying the organic phase over anhydrous sodium sulfate. From the organic phase, the solvent was distilled off under reduced pressure, followed by purifying the resultant residue by silica gel column chromatography (eluate; n-hexane:ethyl acetate=95:5), and from the resultant, the solvent was distilled off under reduced pressure to obtain the subject compound (15 g). The compound is a mixture of diastereomers.

reactant | 3,4-dihydro-2H-pyran | 10.6 mL | O1CCCC=C1 | C5H8O
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | (1S)-4-bromo-2,3-dihydro-1H-inden-1-ol | 10.0 g | BrC1=C2CC[C@@H](C2=CC=C1)O | C9H9BrO
reactant | sodium hydrogen carbonate | 60 mL | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 16.2 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 31.1 μL | O1CCOCC1 | C4H8O2
product | 2-(((S)-4-bromo-2,3-dihydro-1H-inden-1-yl)oxy)tetrahydro-2H-pyran | 15 g | BrC1=C2CC[C@@H](C2=CC=C1)OC1OCCCC1 | C14H17BrO2
